US03950427
(E)-4-(2-Fluoro-4-biphenylyl)-3-penten-2-one by method F
72.8 Gm (0.649 mol) of potassium tert.butylate were added all at once to a slution of 97.0 gm (0.453 mol) of 4-acetyl-2-fluoro-biphenyl and 103.0 gm (0.651 mol) of (E)-3-ethoxy-crotonic acid ethyl ester in 1 liter of anhydrous dimethylformamide, whereby the temperature of the mixture rose spontaneously from 20°C to 38°C and its color turned intensely red. The reaction mixture was stirred for one hour while maintaining an internal temperature of 32° to 35°C, and then, while the mixture was still warm, 200 ml of concentrated hydrochloric acid were added dropwise thereto, and the resulting mixture was heated for 30 minutes at 90°-100°C. After the evolution of carbon dioxide had ceased, the cooled mixture was stirred into one liter of ice water, and the yellowish precipitate formed thereby was filtered off, thoroughly washed with water and recrystallized, in the presence of activated charcoal, once from methanol and twice from diisopropyl ether. 75.0 gm (65% of theory) of the fallow crystalline compound, m.p. 103°C, of the formula ##SPC21##

reactant | 4-acetyl-2-fluoro-biphenyl | 0.453 mol, 97.0 gm | C(C)(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C14H11FO
reactant | (E)-3-ethoxy-crotonic acid ethyl ester | 0.651 mol, 103.0 gm | C(C)OC(\C=C(/C)\OCC)=O | C8H14O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | (E)-4-(2-Fluoro-4-biphenylyl)-3-penten-2-one | FC1=C(C=CC(=C1)/C(=C/C(C)=O)/C)C1=CC=CC=C1 | C17H15FO
